US09260439B2
Step 2: Preparation of 2-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4,6-diol
(3S)-4-(4,6-Dimethoxypyrimidin-2-yl)-3-methylmorpholine (6.3 g, 26.3 mmol) was dissolved in acetonitrile (88 mL). Argon was bubbled into the solution and sodium iodide (11.8 g, 79.0 mmol) and TMS-Cl (10.3 mL, 79.0 mmol) were added. The reaction was heated under reflux for 2 h, and then allowed to cool to room temperature. Water (50 mL) and sodium bisulfate (2.74 g, 26.3 mmol) was added. Acetonitrile was removed by rotary evaporation and the resulting slurry was filtered. The precipitate was suspended in ethanol and concentrated to dryness by rotary evaporation to give the title compound (3.81 g, 68%). 1H NMR (400 MHz, DMSO-d6) δ 10.61 (br s, 2 H), 4.80 (br s, 1 H), 4.40 (d, J=5.9 Hz, 1 H), 3.98 (d, J=12.7 Hz, 1 H), 3.85 (dd, J=11.3, 3.5 Hz, 1 H), 3.68-3.62 (m, 1 H), 3.56-3.50 (m, 1 H), 3.38 (td, J=11.8, 3.0 Hz, 1 H), 3.16-3.04 (m, 1 H), 1.16 (d, J=6.7 Hz, 3 H).

reactant | (3S)-4-(4,6-Dimethoxypyrimidin-2-yl)-3-methylmorpholine | 26.3 mmol, 6.3 g | COC1=NC(=NC(=C1)OC)N1[C@H](COCC1)C | C11H17N3O3
reactant | sodium iodide | 79.0 mmol, 11.8 g | [I-].[Na+]
reactant | TMS-Cl | 79.0 mmol, 10.3 mL | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | sodium bisulfate | 26.3 mmol, 2.74 g | S([O-])(O)(=O)=O.[Na+]
solvent | acetonitrile | 88 mL | C(C)#N | C2H3N
solvent | Water | 50 mL | O | H2O
product | 2-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4,6-diol | 3.81 g, 68% | C[C@@H]1N(CCOC1)C1=NC(=CC(=N1)O)O | C9H13N3O3
